US07618959B2
b) 6-({2-[4-(6-Methoxy-[1,5]naphthyridin-4-yl)phenyl]ethylamino}methyl)-4H-benzo[1,4]thiazin-3-one
To a stirred solution of 2-[4-(6-Methoxy-[1,5]naphthyridin-4-yl)phenyl]ethylamine hydrochloride salt (1.76 mmole) in dry CH2Cl2 (25 mL) and dry EtOH (10 mL) at RT was added triethylamine (0.74 mL, 5.28 mmole) and 3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carboxaldehyde (0.34 g, 1.76 mmole). After 24 h, the reaction contents were concentrated and dried under high vacuum. To a stirred solution of the crude imine in dry EtOH (25 mL) at RT was added NaBH4 (0.66 g, 1.76 mmole). After 24 h, the reaction solution was concentrated under vacuum and to the residue was added 1M HCl (5 mL) and EtOAc (50 mL): After stirring for 1 h, 6M NaOH (1 mL) was added and the organic layer was separated, dried (Na2SO4) and concentrated. Purification on silica (CHCl3/MeOH, 9:1 containing 5% NH4OH) afforded the title compound (0.55 g, 69%) as light yellow solid: 1H NMR (400 MHz, CD3OD) δ 9.11 (d, J=4.5 Hz, 1H), 8.57 (d, J=9.1 Hz, 1H), 8.27 (d, J=4.5 Hz, 1H), 8.14 (m, 2H), 7.90 (s, 2H), 7.61 (m, 3H), 7.46 (d, J=7.1 Hz, 1H), 7.22 (m, 2H), 5.52 (m, 2H), 4.23 (s, 2H), 4.08 (s, 3H), 3.68 (s, 2H), 3.19 (m, 2H). LC-MS (ES) m/e 457 (M+H)+.

reactant | 2-[4-(6-Methoxy-[1,5]naphthyridin-4-yl)phenyl]ethylamine hydrochloride salt | 1.76 mmole | Cl.COC=1N=C2C(=CC=NC2=CC1)C1=CC=C(C=C1)CCN
reactant | triethylamine | 5.28 mmole, 0.74 mL | C(C)N(CC)CC | C6H15N
reactant | 3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carboxaldehyde | 1.76 mmole, 0.34 g | O=C1CSC2=C(N1)C=C(C=C2)C=O | C9H7NO2S
reactant | NaBH4 | 1.76 mmole, 0.66 g | [BH4-].[Na+]
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | EtOH | 25 mL | CCO | C2H6O
product | 6-({2-[4-(6-Methoxy-[1,5]naphthyridin-4-yl)phenyl]ethylamino}methyl)-4H-benzo[1,4]thiazin-3-one | 0.55 g, 69% | COC=1N=C2C(=CC=NC2=CC1)C1=CC=C(C=C1)CCNCC=1C=CC2=C(NC(CS2)=O)C1 | C26H24N4O2S
